US09290468B2
Step 1: 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one
To a solution of 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid (120 mg, 0.30 mmol) in t-BuOH (10 mL) was added DPPA (48 mg, 0.45 mmol) followed by triethylamine (60 mg, 0.60 mmol). The mixture was heated under reflux for 3 h and allowed to slowly warm to room temperature. The solvent was removed in vacuo and the resultant crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 2:1, v/v). The corresponding product was obtained (100 mg, 83.9% yield). 1H NMR (400 MHz, DMSO-d6): δ 12.14 (s, 1H), 8.01-7.99 (m, 1H), 7.89 (s, 1H), 7.83 (m, 1H), 7.59-7.55 (m, 1H).

reactant | 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid | 0.30 mmol, 120 mg | FC1=C(C(=CC2=C1N=NS2)C(=O)O)NC2=C(C=C(C=C2)I)F | C13H6F2IN3O2S
reactant | DPPA | 0.45 mmol, 48 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.60 mmol, 60 mg | C(C)N(CC)CC | C6H15N
solvent | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
product | 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one | 83.9% yield | FC1=C2C(=CC3=C1N=NS3)NC(N2C2=C(C=C(C=C2)I)F)=O | C13H5F2IN4OS
